US08202856B2
Step 1: Ethyl 5-cyclopropyl-1-(2-fluorophenyl)-1H-1,2,3-triazole-4-carboxylate
DBU (2.99 ml; 20.06 mmol; 1.10 eq.) was dissolved in DMF (37.5 ml) and put under nitrogen atmosphere. 3-Cyclopropyl-3-oxo-propionic acid ethyl ester (Betapharma, 3.132 g; 20.06 mmol; 1.10 eq.) was added to the mixture and it was stirred for 15 min. Then a solution of 1-azido-2-fluorobenzene prepared according to Platz, M. S. et al. J. Org. Chem. 1989, 54, 5938-5945, (2.5 g; 18.23 mmol; 1 eq.) in DMF (5 mL) was added dropwise to the solution at room temperature. Water (50 mL) was added to the cooled reaction mixture and the aqueous layer was extracted with EtOAc (3×50 mL). Combined organics were washed with water and brine, dried over MgSO4 and concentrated under vacuum affording the title compound as a brown oil. It was used in the next step without further purification. LC/MS (Method B): 276.1 (M+H)+.

reactant | DBU | 20.06 mmol, 2.99 ml, 1.10 eq. | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 3-Cyclopropyl-3-oxo-propionic acid ethyl ester | 20.06 mmol, 3.132 g, 1.10 eq. | C(C)OC(CC(=O)C1CC1)=O | C8H12O3
reactant | 1-azido-2-fluorobenzene | N(=[N+]=[N-])C1=C(C=CC=C1)F | C6H4FN3
reactant | Water | 50 mL | O | H2O
solvent | DMF | 37.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Ethyl 5-cyclopropyl-1-(2-fluorophenyl)-1H-1,2,3-triazole-4-carboxylate | C1(CC1)C1=C(N=NN1C1=C(C=CC=C1)F)C(=O)OCC | C14H14FN3O2
